US06677348B2
Under a nitrogen atmosphere, 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.7 g, 6.35 mmol), dibenzyl dicarbonate (4.55 g, 15.9 mmol), triethylamine (1.8 mL, 13.0 mmol), 4-(dimethylamino)pyridine and anhydrous N,N-dimethylformamide (20 mL) were combined. The reaction mixture was heated to 90° C. at which time the reaction turned homogeneous. It was then heated to 130° C. for 4 hours. The reaction mixture was allowed to cool and then it was partitioned between dichloromethane and water. The aqueous fraction was extracted with dichloromethane. The organic fractions were combined, dried over magnesium sulfate and then concentrated to a volume of ˜10 mL. The concentrate was allowed to stand over the weekend and then it was diluted with toluene. The resulting precipitate was isolated by filtration and identified as starting material. The filtrate was diluted with diethyl ether. The resulting precipitate was isolated by filtration to provide 1.1 g of benzyl N-{1-[2-(propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-yl}carbamate as a white solid.

reactant | 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 6.35 mmol, 1.7 g | C(C#C)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C15H14N4O
reactant | dibenzyl dicarbonate | 15.9 mmol, 4.55 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | triethylamine | 13.0 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl N-{1-[2-(propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-yl}carbamate | 1.1 g | C(#CC)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)NC(OCC2=CC=CC=C2)=O | C23H20N4O3
